US05227296
The enzymes used in the preparation of phosphocreatine were dialyzed against 500 ml of 0.1M TRIS (6.05 g), 10 mM MgCl2 (0.5 g), 2 mM EDTA (0.33 g), mercaptoethanol (70 μl) at pH 7.80. The enzymes were yeast hexokinase (35 units), phosphoglucose isomerase (25 units), phosphofructokinase (25 units), aldolase (27 units), phosphoglycerate kinase (71 units), phosphoglycerate kinase (71 units), phosphoglycerate mutase (31 units), lactic dehydrogenase (120 units), pyruvate kinase (50 units), enolase (90 units), creatine phosphokinase (175 units), and glyceraldehyde phosphate dehydrogenase (90 units). Dialysis time was approximately 1 hour. The reaction mixture consisted of 10 mmoles of sodium pyruvate 10 mmoles of potassium phosphate, 5 mmoles glucose, 0.18 mmoles at ATP, 0.18 mmoles of NAD and 18 mmoles of creatine dissolved in 200 ml of 0.1M TRIS, 10 mM MgCl2, 2 mM EDTA and 2 mM mercaptoethanol. This mixture also contained 0.05% NaN3 in order to inhibit bacterial growth. Prior to addition of the dialyzed enzymes, the reaction mixture was titrated to pH 8.0 and purged for 15 min with argon gas. The dialyzed enzymes were then added to the solution. The reaction was carried out under argon and the pH of the solution was maintained between 7.7 and 7.9 with a pH controller by adding 1N NaOH to the reaction mixture when the pH dropped below 7.7. The final yield of the reaction mixture as shown by 31P nuclear magnetic resonance spectrum was 84% phosphocreatine. After 2 days, the barium salt of the phosphocreatine was formed by adding 2.0 g of BaCl2 to the reaction mixture. Suction filtration of the solution yielded 8.32 g of the barium salt. The phosphocreatine barium salt was then converted to the sodium salt and fractionally crystallized from aqueous ethanol (41). Fractional crystallization yielded 1.70 g of sodium phosphocreatine.

reactant | phosphocreatine barium salt | [Ba+2].P(=O)(O)(O)C(C(=O)[O-])N(C)C(N)=N.P(=O)(O)(O)C(C(=O)[O-])N(C)C(N)=N
reactant | sodium | [Na] | Na
product | sodium phosphocreatine | 1.70 g | P(=O)(O)(O)C(C(=O)O)N(C)C(N)=N.[Na] | InChI=1S/C4H10N3O5P.Na/c1-7(4(5)6)2(3(8)9)13(10,11)12;/h2H,1H3,(H3,5,6)(H,8,9)(H2,10,11,12);
